US07253318B2
In analogy to the procedure described in Example 3b), the alkylation of 2-(4-hydroxy-phenoxy)-N-methyl-acetamide [Example 3a)] with 1-bromomethyl-3-fluoro-benzene in 2-butanone using potassium carbonate as the base yielded the 2-[4-(3-fluoro-benzyloxy)-phenoxy]-N-methyl-acetamide as white crystals; MS: m/e=290 (M+H)+.

reactant | 2-(4-hydroxy-phenoxy)-N-methyl-acetamide | OC1=CC=C(OCC(=O)NC)C=C1 | C9H11NO3
reactant | 1-bromomethyl-3-fluoro-benzene | BrCC1=CC(=CC=C1)F | C7H6BrF
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-[4-(3-fluoro-benzyloxy)-phenoxy]-N-methyl-acetamide | FC=1C=C(COC2=CC=C(OCC(=O)NC)C=C2)C=CC1 | C16H16FNO3
